US07109192B2
1g) 3-benzyl-2-methylsulphanyl-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one
A solution of 1.0 g (3.10 mmol) of 2-methylsulphanyl-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one in 15 ml of dimethylformamide was combined with 547 mg (3.20 mmol) of benzylbromide and then with 442 mg (3.20 mmol) of potassium carbonate and stirred overnight at ambient temperature. Then it was diluted with approx. 40 ml of water and extracted three times with 15 ml of ethyl acetate. The organic extracts were washed with water, dried over sodium sulphate and evaporated down. The crude product thus obtained was purified by column chromatography (silica gel; eluant:petroleum ether with 10–20% ethyl acetate).

reactant | 2-methylsulphanyl-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | 3.10 mmol, 1.0 g | CSC=1NC2=C(C=NN(C2=O)CC2=CC=CC3=CC=CC=C23)N1 | C17H14N4OS
reactant | benzylbromide | 3.20 mmol, 547 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 3.20 mmol, 442 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | approx. 40 ml | O | H2O
product | 3-benzyl-2-methylsulphanyl-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | Yield: 54.7% | C(C1=CC=CC=C1)N1C(=NC=2C=NN(C(C21)=O)CC2=CC=CC1=CC=CC=C21)SC | C24H20N4OS
